US04203988
C. N,N-Dimethyl-N'-(2-dimethylaminoethyl)-N'-(5-amino-2-pyridyl)urea
N,N-Dimethyl-N'-(2-dimethylaminoethyl)-N'-(5-nitro-2-pyridyl)urea (9.68 g., 0.034 mole) is dissolved in absolute ethanol (50 ml.) containing 10% palladium-on-carbon and is hydrogenated at an initial 42 psi of hydrogen at ambient temperature for two hours. The reaction mixture is flushed with nitrogen and then is filtered under nitrogen. The filtrate is concentrated in vacuo on a steam bath to give a nearly colorless oil (8.05 g.) which partially solidifies on standing. Crystallization from acetonitrile yields 5.19 g. of the title compound, m.p. 118°-119° C.

reactant | N,N-Dimethyl-N'-(2-dimethylaminoethyl)-N'-(5-nitro-2-pyridyl)urea | 0.034 mole, 9.68 g | CN(C(=O)N(C1=NC=C(C=C1)[N+](=O)[O-])CCN(C)C)C | C12H19N5O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N,N-Dimethyl-N'-(2-dimethylaminoethyl)-N'-(5-amino-2-pyridyl)urea | CN(C(=O)N(C1=NC=C(C=C1)N)CCN(C)C)C | C12H21N5O
